US07829560B2
(4-Nitro-naphthalen-1-yloxy)-acetic acid methyl ester (0.90 g) and 10% Pd/C (90 mg) in MeOH (150 ml) is stirred at room temperature under 1 atmosphere of hydrogen for 4 h. The mixture is then filtered through Celite® and evaporated to dryness to provide (4-amino-naphthalen-1-yloxy)-acetic acid methyl ester (0.72 g). MS 232 (M+1).

reactant | (4-Nitro-naphthalen-1-yloxy)-acetic acid methyl ester | 0.90 g | COC(COC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-])=O | C13H11NO5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Pd/C | 90 mg | [Pd] | Pd
product | (4-amino-naphthalen-1-yloxy)-acetic acid methyl ester | 0.72 g | COC(COC1=CC=C(C2=CC=CC=C12)N)=O | C13H13NO3
